US08211908B2
To a solution of 0.74 g of 7-fluoro-6-methyl-1,5-naphthyridin-2(1H)-one in 5 mL of N,N-dimethylformamide, 2.0 g of cesium carbonate and 0.84 g of 2-bromo-1,1-dimethoxyethane were added, the temperature was increased to 90 to 100° C., and the mixture was stirred for 2 hours 30 minutes. The reaction mixture was cooled to room temperature, thereto was added ethyl acetate, the insoluble substance was filtered off, and the solvent was then distilled off under reduced pressure. The resultant residue was purified by silica gel column chromatography using an eluent of chloroform:methanol=100:1 to obtain 0.69 g of 1-(2,2-dimethoxyethyl)-7-fluoro-6-methyl-1,5-naphthyridin-2(1H)-one as a light yellow solid.

reactant | 7-fluoro-6-methyl-1,5-naphthyridin-2(1H)-one | 0.74 g | FC1=C(N=C2C=CC(NC2=C1)=O)C | C9H7FN2O
reactant | cesium carbonate | 2.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromo-1,1-dimethoxyethane | 0.84 g | BrCC(OC)OC | C4H9BrO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 1-(2,2-dimethoxyethyl)-7-fluoro-6-methyl-1,5-naphthyridin-2(1H)-one | 0.69 g | COC(CN1C(C=CC2=NC(=C(C=C12)F)C)=O)OC | C13H15FN2O3
